US06518257B1
(ii) Production of N-[4′-[1-hydroxy-1-(1H-imidazol-4-yl)butyl][1,1′-biphenyl]-3-yl]acetamide
A suspension of N-[4′-[1-hydroxy-1-(1-trityl-1H-imidazol-4-yl)-3-butenyl][1,1′-biphenyl]-3-yl]acetamide (829 mg), 10% palladium carbon (829 mg) and 1N hydrochloric acid (1.41 ml) in ethanol (14 ml) was stirred under a hydrogen atmosphere at room temperature for 9.5 h. Sodium hydrogen carbonate (130 mg) was added and the mixture was stirred. The reaction mixture was filtered through Celite, and the filtrate was concentrated. The residue was purified by silica gel chomatography (eluent;chloroform→chloroform:methanol=10:1→7:1→4:1) to give the colorless amorphous title compound (420 mg).

reactant | N-[4′-[1-hydroxy-1-(1-trityl-1H-imidazol-4-yl)-3-butenyl][1,1′-biphenyl]-3-yl]acetamide | 829 mg | OC(CC=C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC(=CC=C1)NC(C)=O | C40H35N3O2
reactant | hydrochloric acid | 1N, 1.41 ml | Cl | ClH
reactant | Sodium hydrogen carbonate | 130 mg | C(O)([O-])=O.[Na+]
solvent | ethanol | 14 ml | C(C)O | C2H6O
catalyst | palladium carbon | 829 mg | [C].[Pd]
product | N-[4′-[1-hydroxy-1-(1H-imidazol-4-yl)butyl][1,1′-biphenyl]-3-yl]acetamide | 420 mg | OC(CCC)(C=1N=CNC1)C1=CC=C(C=C1)C1=CC(=CC=C1)NC(C)=O | C21H23N3O2
